US06410592B1
Step D: 2-(N-Benzylmethylamino)methyl-6-fluoro-3,4-dihydro-2H-naphthalene-1-one hydrochloride
To an ice-cooled solution of N-benzylmethylamine (5.67 cm3) in ethyl alcohol (60 cm3) was added hydrochloric acid (5 M, 10 cm3). 6-Fluoro-3,4-dihydro-2H-naphthalene-1-one (6.00 g) and paraformaldehyde (1.32 g) were then added and the resulting mixture was stirred and heated to reflux for 4 h. Upon cooling, the alcohol was removed under reduced pressure and water (100 cm3) was added. The remaining tetralone was extracted into diethyl ether (100 cm3) and the aqueous mixture was then extracted further with dichloromethane (2×100 cm3). The combined extracts were dried (Na2SO4) and concentrated under reduced pressure. Trituration with diethyl ether and filtration provided the title compound (3.18 g) as a white solid.

reactant | N-benzylmethylamine | 5.67 cm3 | C(C1=CC=CC=C1)CN | C8H11N
reactant | hydrochloric acid | 5 M, 10 cm3 | Cl | ClH
reactant | 6-Fluoro-3,4-dihydro-2H-naphthalene-1-one | 6.00 g | FC=1C=C2CCCC(C2=CC1)=O | C10H9FO
reactant | paraformaldehyde | 1.32 g | C=O | CH2O
solvent | ethyl alcohol | 60 cm3 | C(C)O | C2H6O
product | 2-(N-Benzylmethylamino)methyl-6-fluoro-3,4-dihydro-2H-naphthalene-1-one hydrochloride | 3.18 g | Cl.C(C1=CC=CC=C1)CNCC1C(C2=CC=C(C=C2CC1)F)=O | InChI=1S/C19H20FNO.ClH/c20-17-8-9-18-15(12-17)6-7-16(19(18)22)13-21-11-10-14-4-2-1-3-5-14;/h1-5,8-9,12,16,21H,6-7,10-11,13H2;1H
